US08871756B2
4-[6-Methyl-4-(morpholin-4-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and morpholine. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CDCl3) δ ppm 8.06 (d, J=8.0 Hz, 1 H), 7.62-7.53 (m, 4 H), 7.40 (t, J=7.6 Hz, 1 H), 7.32 (d, J=7.6 Hz, 1 H), 6.42 (s, 1 H), 5.51 (s, 2 H), 4.60 (brs, 2 H), 4.00 (t, J=4.4 Hz, 4 H), 3.59 (s, 2 H), 3.10 (m, 4 H), 2.44 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-[6-Methyl-4-(morpholin-4-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)N2CCOCC2 | C23H25N3O3S
